US04324920
A mixture of para-cresol (65 grams, 0.60 moles) and toluene (20 ml) was distilled until the mixture was free of toluene. Aluminum turnings (1.1 grams, 0.04 gram atoms) were then added to the dried para-cresol and this mixture was heated at 150°-160° C. until cessation of hydrogen evolution. Methyldisulfide (36 ml, 0.4 moles) was added and the mixture heated at reflux (about 160° C.) overnight. The mixture was refluxed for another additional 4 hours and was then flashed under a vacuum. The flashed mixture was then distilled through a 0.7×30 cm packed column to yield 30.3 grams of 4-methyl-2-(methylthio)-phenol, a 55 percent yield. Subsequently, MMR analysis verified the identity of the compound.

reactant | para-cresol | 0.60 moles, 65 grams | C1=CC(=CC=C1O)C | C7H8O
reactant | Methyldisulfide | 0.4 moles, 36 ml | CSSC | C2H6S2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-methyl-2-(methylthio)-phenol | 30.3 grams, 55 percent yield | CC1=CC(=C(C=C1)O)SC | C8H10OS
